US05998436
Synthesis of 7-(3-aminoazetidin-1-yl)-1-(6-amino-3-chloro-5-fluoropyridin-2-yl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 300 mg of N,N-dimethylformamide were added 100 mg of 1-(6-amino-3-chloro-5-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 70 mg of 3-aminoazetidine dihydrochloride, and 150 mg of N-methylpyrrolidone, and the mixture was stirred at 90° C. for 30 minutes. After adding 0.3 ml of ethanol, the mixture was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 95 mg of the title compound as a colorless powder.

reactant | N,N-dimethylformamide | 300 mg | CN(C=O)C | C3H7NO
reactant | 1-(6-amino-3-chloro-5-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)Cl)F | C15H6Cl2F3N3O3
reactant | 3-aminoazetidine dihydrochloride | 70 mg | Cl.Cl.NC1CNC1
reactant | N-methylpyrrolidone | 150 mg | CN1C(CCC1)=O | C5H9NO
solvent | ethanol | 0.3 ml | C(C)O | C2H6O
product | 7-(3-aminoazetidin-1-yl)-1-(6-amino-3-chloro-5-fluoropyridin-2-yl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 95 mg | NC1CN(C1)C1=C(C=C2C(C(=CN(C2=C1Cl)C1=NC(=C(C=C1Cl)F)N)C(=O)O)=O)F | C18H13Cl2F2N5O3
